US07135482B2
1-(2,4-Difluorobenzyl)-N-hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide
The title compound was prepared by coupling of 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid and N-methyl hydroxylamine hydrochloride in a manner similar to step (c) of example 1. 1H NMR (DMSO-d6) δ; 11.10 (br, 1H), 8.92 (s, 1H), 8.04 (s, 1H), 7.82 (s, 1H), 7.26–7.38 (m, 2H), 7.07–7.08 (m, 1H), 6.72 (s, 1H), 5.64 (s, 2H), 3.33 (s, 3H). LCMS (API-ES, M+H+): 318.0. HRMS calcd for C16H14F2N3O2(M+H) 318.1054. found 318.1037. HPLC: 100% purity.

reactant | 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=CC(=C1)F | C15H10F2N2O2
reactant | N-methyl hydroxylamine hydrochloride | Cl.CNO
product | 1-(2,4-Difluorobenzyl)-N-hydroxy-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)N(C)O)C=CC(=C1)F | C16H13F2N3O2
